US06953790B2
Step A. tert-Butyl (3R,6S)-6-(2,3-difluorophenyl)-1-(2-methoxyethyl)-2-oxoazepan-3-ylcarbamate
Sodium hydride (60% dispersion in mineral oil; 17.6 mg, 0.264 mmol) was added to a solution of tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-oxoazepan-3-ylcarbamate (75 mg, 0.220 mmol) in N,N-dimethyl formamide (2 mL) at 0° C. After 5 min, 2-bromoethyl methyl ether (0.025 mL, 0.264 mmol) was added and the mixture was allowed to warm to ambient temperature. After 3 h, the reaction was quenched with water and the mixture was extracted with ethyl acetate. The organic layer was washed with water (2×), saturated brine, dried over magnesium sulfate, filtered and concentrated to give the title compound. MS 421 (M+Na).

reactant | Sodium hydride | 0.264 mmol, 17.6 mg | [H-].[Na+]
reactant | tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-oxoazepan-3-ylcarbamate | 0.220 mmol, 75 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=O)NC(OC(C)(C)C)=O | C17H22F2N2O3
reactant | 2-bromoethyl methyl ether | 0.264 mmol, 0.025 mL | COCCBr | C3H7BrO
solvent | N,N-dimethyl formamide | 2 mL | CN(C=O)C | C3H7NO
product | tert-Butyl (3R,6S)-6-(2,3-difluorophenyl)-1-(2-methoxyethyl)-2-oxoazepan-3-ylcarbamate | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CCOC)=O)NC(OC(C)(C)C)=O | C20H28F2N2O4
